US08563735B2
4-[1-(2-methoxy-ethyl)-piperidin-4-ylamino]-3-nitro-benzenesulfonamide
1-(2-Methoxy-ethyl)-piperidin-4-ylamine (2.01 g) and triethylamine (3.24 mL, 2.35 g) were added to 1,4-dioxane (60 mL). 4-Chloro-3-nitrobenzenesulfonamide (2.50 g) was added, and the mixture was heated to 90° C. for 16 hours. The mixture was cooled and the material purified by flash column chromatography on silica gel using 10% methanol in dichloromethane.

reactant | 1-(2-Methoxy-ethyl)-piperidin-4-ylamine | 2.01 g | COCCN1CCC(CC1)N | C8H18N2O
reactant | triethylamine | 3.24 mL, 2.35 g | C(C)N(CC)CC | C6H15N
reactant | 4-Chloro-3-nitrobenzenesulfonamide | 2.50 g | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 4-[1-(2-methoxy-ethyl)-piperidin-4-ylamino]-3-nitro-benzenesulfonamide | COCCN1CCC(CC1)NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C14H22N4O5S
